US07601716B2
4-(2-Oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (520 mg) was reacted with 4-ethoxycarbonylphenyl boronic acid as in General Procedure 4B to give the title compound as a light yellow solid in 79% yield. M.p.>200° C., LCMS: m/z=298.14 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.33 (3H, t, J=7.1 Hz), 4.32 (2H, q, J=7.1 Hz), 7.26 (1H, d, J=2.0 Hz), 7.67 (2H, d, J=8.3 Hz), 7.99 (2H, d, J=8.1 Hz), 8.04 (1H, d, J=2.3 Hz).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 520 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 4-ethoxycarbonylphenyl boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-(2-Oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester | 79% yield | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCC(N2)=O)N=C1)=O | C16H15N3O3
